US06806267B1
7-((Dimethylcarbamoyl)oxy)-6-(1-naphthyl)pyrrolo[1,2-d]pyrido[3,2-b][1,4]oxazepine (PBOX-13)
To a suspension of potassium hydride (0.281 g, 2.45 mmol, 35% in oil) in anhydrous THF (5.0 mL) was added the the (±)-6-(1-naphthyl)pyrrolo[1,2-d]pyrido[3,2-b][1,4]oxazepin-7(6H)-one (800 mg, 2.45 mmol) dissolved in anhydrous THF (5 mL). The reaction mixture was stirred at rt for 2 h, and then dimethylcarbamoyl chloride (0.303 g, 2.82 mmol) was slowly added. After stirring for 12 h at 30° C., the solvent was removed in vacuo and the residue was dissolved in EtOAc. The organic layer was washed with brine, dried and concentrated. The residue was chromatographed (dichloromethane and hexane 1:3) to give the PBOX-13 in 78% yield. IR (neat) 1725 cm−1; 1HNMR (CDCl3) δ 2.61 (s, 3 H), 2.70 (s, 3 H), 6.44 (m, 2 H), 7.10 (m, 2 H), 7.41-7.59 (m, 4 H), 7.62-7.90 (m, 3 H), 8.12 (m, 1 H), 8.25 (m, 1 H).

reactant | potassium hydride | 2.45 mmol, 0.281 g | [H-].[K+]
reactant | (±)-6-(1-naphthyl)pyrrolo[1,2-d]pyrido[3,2-b][1,4]oxazepin-7(6H)-one | 2.45 mmol, 800 mg | C1(=CC=CC2=CC=CC=C12)C1C(C=2N(C3=C(O1)C=CC=N3)C=CC2)=O | C21H14N2O2
reactant | dimethylcarbamoyl chloride | 2.82 mmol, 0.303 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 7-((Dimethylcarbamoyl)oxy)-6-(1-naphthyl)pyrrolo[1,2-d]pyrido[3,2-b][1,4]oxazepine | 78% yield | CN(C(=O)OC=1C=2N(C3=C(OC1C1=CC=CC4=CC=CC=C14)C=CC=N3)C=CC2)C | C24H19N3O3
